Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abd pain
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
HPI:  
___ yo male with HTN, GERD presenting with fevers, abdominal pain
and vomiting.

Patient reports the onset of "flulike symptoms" starting 5 days
ago, consisting of fevers, vomiting and abdominal pain.  
Measured
a temperature as high as 101.9 at home. When his symptoms 
started
last ___, he had multiple episodes of vomiting after any p.o.
intake.  On ___ he kept himself n.p.o., and on ___ was
able to eat a popsicle and Gatorade with no problems.  ___
went okay, he was able to push lots of fluids, Gatorade and
Pedialyte without issue.  On ___ night he ate a roast beef
sandwich and a sausage.  He woke up on ___ morning feeling
"awful" with recurrence of his nausea, vomiting and fevers.  
This
eventually led him to seek evaluation in the ED today.

On arrival to the ER, he was febrile to 100.5, tachycardic
110-125, normotensive. Labs were notable for ALT 466, AST 436,
alk phos 355, T bili 4.9, D bili 2.5, LDH 474, normal lipase,
white count 5.9.  Right upper quadrant ultrasound showed biliary
sludge without convincing evidence of wall edema, no gallbladder
distention, no pericholecystic fluid. he was given 2 L of fluids
as a bolus, IV Cipro Floxin 400 mg, IV Flagyl 500 mg, and 1g PO
Tylenol.  ED spoke with ERCP team, who report they can add him 
on
for ERCP tomorrow.  He was also evaluated by acute care surgery.

ROS: As per HPI, and 10 point ROS completed and otherwise
negative.

 
Past Medical History:
- HTN
- GERD
- Chronic tachycardia: followed by a cardiologist

 
Social History:
___
Family History:
no family history of gallstone or gallbladder disease
 
Physical Exam:
VITALS: Reviewed, see eFlowsheet
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  Normal appearing
neck veins. 
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, with mild tenderness to
palpation in the RUQ, no guarding, negative ___ (on my
evaluation, though was reportedly positive in the ED).  Bowel
sounds diminished. 
GU: No GU catheter in place
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMIT LABS:
___ 10:05PM   ___ PTT-28.9 ___
___ 07:00PM URINE  HOURS-RANDOM
___ 07:00PM URINE  UHOLD-HOLD
___ 07:00PM URINE  COLOR-DkAmb* APPEAR-Hazy* SP ___
___ 07:00PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-LG* UROBILNGN-8* PH-6.5 
LEUK-NEG
___ 07:00PM URINE  RBC-<1 WBC-3 BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 07:00PM URINE  MUCOUS-OCC*
___ 05:08PM   LACTATE-1.3
___ 05:00PM   GLUCOSE-130* UREA N-12 CREAT-0.9 SODIUM-134 
POTASSIUM-4.6 CHLORIDE-96 TOTAL CO2-21* ANION GAP-22*
___ 05:00PM   estGFR-Using this
___ 05:00PM   ALT(SGPT)-466* AST(SGOT)-436* LD(LDH)-474* 
CK(CPK)-76 ALK PHOS-355* TOT BILI-4.9* DIR BILI-2.5* INDIR 
BIL-2.4
___ 05:00PM   LIPASE-34
___ 05:00PM   ALBUMIN-3.9
___ 05:00PM   WBC-5.9 RBC-4.52* HGB-14.4 HCT-42.0 MCV-93 
MCH-31.9 MCHC-34.3 RDW-12.5 RDWSD-43.2
___ 05:00PM   NEUTS-63.8 LYMPHS-15.7* MONOS-19.3* EOS-0.5* 
BASOS-0.5 IM ___ AbsNeut-3.73 AbsLymp-0.92* AbsMono-1.13* 
AbsEos-0.03* AbsBaso-0.03
___ 05:00PM   PLT COUNT-141*

DC LABS:

___ 06:12AM BLOOD WBC-5.7 RBC-4.19* Hgb-13.4* Hct-39.2* 
MCV-94 MCH-32.0 MCHC-34.2 RDW-12.8 RDWSD-44.1 Plt ___
___ 06:12AM BLOOD ___ PTT-30.4 ___
___ 06:12AM BLOOD Glucose-91 UreaN-9 Creat-0.7 Na-137 K-4.1 
Cl-98 HCO3-26 AnGap-17
___ 06:12AM BLOOD ALT-319* AST-163* AlkPhos-294* 
TotBili-4.0*
___ 06:12AM BLOOD calTIBC-207* Ferritn-1711* TRF-159*
___ 06:12AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG 
IgM HBc-NEG IgM HAV-NEG
___ 06:12AM BLOOD HCV Ab-NEG
___ 06:12AM BLOOD HCV Ab-NEG

EXAMINATION:  LIVER OR GALLBLADDER US (SINGLE ORGAN)
 
INDICATION:  ___ with abdominal pain, fever, positive ___ s 
sign.
 
TECHNIQUE:  Grey scale and color Doppler ultrasound images of 
the abdomen were
obtained.
 
COMPARISON:  ___ chest CTA
 
FINDINGS: 
 
LIVER: The hepatic parenchyma is markedly echogenic and 
heterogeneous.  There
is focal hypoechogenicity adjacent to the gallbladder fossa, 
which could
represent focal fatty sparing.  There is also a focal area of 
relatively
well-defined hypoechogenicity in the right hepatic lobe 
measuring 9 x 6 x 5 mm
(image 44).  The contour of the liver is smooth. The main portal 
vein is
patent with hepatopetal flow. There is no ascites.
 
BILE DUCTS: There is no intrahepatic biliary dilation. The CHD 
measures 6 mm.
 
GALLBLADDER: There is biliary sludge, but no convincing wall 
edema and the
gallbladder is not particularly distended.  No pericholecystic 
fluid.
 
PANCREAS: The imaged portion of the pancreas appears within 
normal limits,
without masses or pancreatic ductal dilation, with portions of 
the pancreatic
tail obscured by overlying bowel gas.
 
SPLEEN:  Normal echogenicity, measuring 14.2 cm.
 
KIDNEYS:  Limited views of the right kidney show no 
hydronephrosis.
 
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal
limits.
 
IMPRESSION:
 
 
1. Biliary sludge without convincing evidence of wall edema.  
The gallbladder
is not particularly distended.  No pericholecystic fluid.
2. Echogenic and heterogeneous liver consistent with steatosis. 
Other forms of
liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot
be excluded on the basis of this examination.
3. 9 mm right hepatic lobe lesion.  Given the presence of 
underlying
parenchymal abnormality, recommend non urgent dedicated liver 
MRI for further
evaluation.
4. Mild splenomegaly.
 
RECOMMENDATION(S):  9 mm right hepatic lobe lesion, possibly 
focal sparing.
Given the presence of underlying parenchymal abnormality, 
recommend non urgent
dedicated liver MRI for further evaluation.

ERCP:
Impression:
The scout film was normal.
The papilla was wide open.
This may represent spontaneous passage of stone.
The bile duct was deeply cannulated with the sphincterotome.
Contrast was injected and there was a filling defect that 
appeared like sludge in the lower third of CBD.
Otherwise the biliary tree was normal. Cystic duct was patent 
and filling of Gall bladder was noted.
A sphincterotomy was performed in the 12' O Clock position using 
a sphincterotome over a existing guidewire.
The bile duct was swept multiple times using a biliary balloon. 
A small amount of Sludge materials was succesfully removed. No 
stones were noted. There was excellent contrast and bile 
drianage at the end of the procedure. 

 
Brief Hospital Course:
___ yo male with HTN, GERD presenting with fevers, abdominal pain 
and vomiting secondary to presumed cholangitis from bile 
obstruction and possible passed stone, now s/p ERCP with 
downtrending LFTs, with signs concerning for underlying liver 
disease.

Acute cholangitis
Bile obstruction
Presumed choledocholithiasis
Acute hepatitis
Possible Steatohepatitis
Symptoms were acute suggesting of bile obstruction from now 
passed gallstone with assoc cholangitis.  s/p ERCP with removal 
of sludge.  Symptoms resolved and LFTs are downtrending after 
ERCP.  Afebrile.  He does have possible evidence of underlying 
liver disease as well (? fatty liver) with abnormal INR and 
splenomegaly.  This is suggestive of underlying chronic liver 
disease and possibly cirrhosis.  His alcohol use is not 
extensive, he does not take tylenol.  Iron studies demonstrated 
elevated ferritin c/w inflammation but no necessarily 
hemochromatosis.  Hepatitis panels negative.  CMV/EBV PENDING.
- Cipro x 5 days
- Surgery follow up in ___ weeks to consider CCY
- PLEASE REPEAT LFTS on next follow up to ensure these are 
improving.
- Would consider referral to GI/Liver clinic to evaluate for 
chronic liver disease

Liver Lesion: 
9 mm right hepatic lobe lesion noted incidentally on his right 
upper quadrant ultrasound. Given the presence of underlying 
parenchymal abnormality, a non-urgent dedicated liver MRI was 
recommend for further evaluation.  This could be performed as an 
outpatient following his current hospitalization.  This was 
explained to the patient is detail with his wife and they both 
expressed understanding of need for follow up imaging.  
Specifically MRI.

GERD: Resumed PPI on DC

Hypertension: Hold losartan, resumed on ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*9 Tablet Refills:*0 
2.  Losartan Potassium 50 mg PO DAILY  
3.  Omeprazole 20 mg PO DAILY  
4. HELD- Aspirin 325 mg PO DAILY  This medication was held. Do 
not restart Aspirin until follow up with your PCP
5.Outpatient Lab Work
Please check AST, ALT, T. bilirubin, alk phos liver tests on 
follow up

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bile obstruction
Presumed choledocholithiasis
Acute hepatitis
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with acute abdominal pain and 
hepatitis/jaundice.  We think that you may have passed a stone.  
After ERCP you improved and your liver tests are improving.  
However, there are signs that you have chronic liver disease.  
Please follow up with PCP ___ 1 week for repeat liver 
testing.  We recommend referral to a gastroenterologist as well.

Please complete the antibiotics as prescribed.  As we discussed, 
do not drink alcohol or use Tylenol until your liver tests 
improve.  As we discussed, speak with your PCP about arranging 
an MRI of the liver to evaluate the liver cyst/nodule that was 
seen on ultrasound.
 
Followup Instructions:
___